US07067540B2
Preparation of 4-(benzyloxy)-1-(3-fluorobenzyl)-3-iodopyridin-2(1H)-one
Heated a reaction mixture of 4-(benzyloxy)-1-(3-fluorobenzyl)pyridin-2(1H)-one (4.83 g, 15.6 mmol) in anhydrous acetonitrile (55 mL) and N-iodosuccinimide (NIS, 3.86 g, 17.1 mmol) under nitrogen atmosphere at 650 C for 4 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (silica gel) using EtOAc/hexanes (1:1 v:v). The appropriate fractions were collected according to ES MS (M+H 436) and washed with Na2SO3 to remove the color impurities. The fractions were concentrated under reduced pressure and dried in vacuo to afford the desired product (6.15 g, 90%) as a light yellow solid.

reactant | 4-(benzyloxy)-1-(3-fluorobenzyl)pyridin-2(1H)-one | 15.6 mmol, 4.83 g | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC1=CC(=CC=C1)F)=O | C19H16FNO2
reactant | N-iodosuccinimide | 17.1 mmol, 3.86 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 55 mL | C(C)#N | C2H3N
product | 4-(benzyloxy)-1-(3-fluorobenzyl)-3-iodopyridin-2(1H)-one | 6.15 g, 90% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)CC1=CC(=CC=C1)F)=O)I | C19H15FINO2
